US07714010B2
b) 2-Amino-7,7-dimethyl-5-propyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (D4)
Analogously to general procedure (III) 5,6-diamino-3,3-dimethyl-1-propyl-1,3-dihydro-indol-2-one (1.52 g) is cyclized using BrCN (3 M; 2.4 ml; 7.2 mmol) at RT in water (5 ml) and THF (13 ml). After aqueous work-up and flash chromatography on silica gel eluting with CH2Cl2/MeOH (15:1) the desired compound (1.56 g) is obtained.

reactant | 5,6-diamino-3,3-dimethyl-1-propyl-1,3-dihydro-indol-2-one | 1.52 g | NC=1C=C2C(C(N(C2=CC1N)CCC)=O)(C)C | C13H19N3O
reactant | BrCN | 7.2 mmol, 3 M, 2.4 ml | BrC#N | CBrN
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | water | 5 ml | O | H2O
solvent | THF | 13 ml | C1CCOC1 | C4H8O
product | 2-Amino-7,7-dimethyl-5-propyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 1.56 g | NC1=NC=2C(=CC=3C(C(N(C3C2)CCC)=O)(C)C)N1 | C14H18N4O
